2128-06-23 07:07:00 Physician Resident Progress Note
Chief Complaint: Fatigue
   24 Hour Events:
   Had episode of nausea/vomiting and diarrhea. Zofran given with
   resolution of symptoms. C.Diff sent, and has come back negative. Stool
   guiaic negative.
   Also had episode of SBP 190-210s/100-115 overnight. C/o headache.
   Denies blurry vision or dizziness. Since pt unable to take po due to
   nausea, given Hydralazine 10mg x 2 -> SBP decreased to 150s. As nausea
   improved, regular dose of Captopril 25mg tid given -> SBP decreased
   further to 130s.
   Pt underwent a cycle of PD last night. Effluent sent has since returned
   negative for infection. [**Name8 (MD) **] RN, effluent was drained with difficulty
   ([**2119**] in, only 1700 out and this is after letting it run for 3 hrs.)
   Question possible clot in PD tube.
   This a.m., pt had an episode of substernal chest pressure, mildly
   improved after NG x 3. No radiation of pain. EKG without signs of STEMI
   or ischemia.
   ADDENDEUM: in early afternoon, pt experienced chills with a temp of
   96.4. Was placed under Bair hugger. Repeat blood cultures were sent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2128-6-22**] 07:21 PM
   Ciprofloxacin - [**2128-6-22**] 07:54 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2128-6-22**] 10:19 PM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: See above
   Flowsheet Data as of  [**2128-6-23**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 70 (70 - 84) bpm
   BP: 162/91(121) {133/59(80) - 193/115(133)} mmHg
   RR: 22 (15 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    444 mL
                  PO:
                                                                    100 mL
                  TF:
   IVF:
                                                                    344 mL
   Blood products:
   Total out:
                                                                 -2,000 mL
                                                                   -300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,444 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///24/
   Physical Examination
   Gen: alert, awake, no acute distress this a.m. on first exam, laying in
   bed
   HEENT: mucous membranes slightly dry, EOMI grossly, PERRL, no LAD;
   right upper chest HD catheter site without erythema/drainage/tenderness
   CV: RRR, no m/r/g
   LUNGS: CTAB, no w/r/r
   ABD: soft, NTND, bs+, LLQ peritoneal tubing site without
   erythema/drainage/tenderness
   EXT: no c/c/e, dorsalis pedis pulses 2+ bilaterally
   Labs / Radiology
   287 K/uL
   10.0 g/dL
   102 mg/dL
   9.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   44 mg/dL
   95 mEq/L
   132 mEq/L
   30.6 %
   10.8 K/uL
        [image002.jpg]
   [**6-22**] Blood cx:
 bottles + GNR (awaiting speciation/ sensitivities);
   remaining bottle pending
   [**6-22**] C.Diff toxins: negative
   [**6-23**] Gram stain of dialysate: no PMNs/organisms; Culture- pending
   [**6-23**] Blood cx: 2 bottles pending
   [**6-23**] Peritoneal dialysate:
                                     WBC
                                     RBC
                                    Polys
                                   Lymphs
                                    Monos
                                    Macro
                                     31*
                                     15*
                                     31*
                                     6*
                                     43*
                                     20*
                             [**2128-6-23**]  04:56 AM
   WBC
   10.8
   Hct
   30.6
   Plt
   287
   Cr
   9.7
   Glucose
   102
   Other labs: PT / PTT / INR:19.4/37.4/1.8, ALT / AST:[**5-11**], Alk Phos / T
   Bili:85/0.4, Albumin:3.9 g/dL, LDH:268 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   55 year-old female with a history of ESRD on HD and PD, hypertension
   who presents with uncontrolled hypertension and gram negative
   bacteremia.
   .
   # Gram negative bacteremia - Possible sources include dialysis
   catheter, peritoneal cathetheter, or other intra-abdominal source.
   Peritoneal fluid negative for infection. Breast tenderness is chronic
   and likely related to venous clots.  No evidence of abscess on
   ultrasound, so unlikely to be source of infection given chronicity.
   - Gentamicin 60mg IV x 1 given, double coverage with ciprofloxacin 400
   q24 until gram negatives speciated
   - F/u on repeat blood cultures from today
   - CIS
   - Per renal, will check Gent level after HD. If </=1.3, will re-dose
   Gent 60mg IV x 1.
   - Also, renal recs advise keeping HD catheter in, as pt with limited
   availability for alternate HD access. Will consider removing if not
   other source found for bacteremia, and symptoms persist.
    .
   #Breast pain: Breast tenderness is chronic and likely related to venous
   clots.  No evidence of abscess on ultrasound, so unlikely to be source
   of infection given chronicity. Pt had recent breats u/s which showed
   only breast edema. Pt would prefer not to have mammogram, due to pain
   of test.
   - Will have breast surgery consulted
   - Continue to monitor
   .
   #Chest pain: episode of chest pain this morning substernal pressure,
   but no signs MI on EKG. Pain improved mildly with NG. Also increases
   with inspiration, which is more consistent with a pleuritic etiology.
   - Will repeat EKG this afternoon.
   - Follow serial CE
   - Follow up on CXR this a.m.
   - Morphine prn pain.
   .
   # Hypertension
 Per pt, baseline at home is 120/80.  However, only
   missed 4 days of low-dose atenolol, and now BP elevated in 170s, and
   episode of BP in 200s last pm.
   - Continue home Atenolol 12.5 daily and  titrate Captopril up
   (currently 6.25mg TID) as tolerated.
   .
   # ESRD
 Pt on HD Mon/Fri and  regular PD.  Receiving HD today per
   renal.
   - Continue lanthanum, sevelamer, Iron, vitamin D, cinacalcet
   - 2-3kg to removed via HD today, as PD has been ineffective
   - Renal to stop by today with TPA for PD tubing to remove any potential
   clots
   .
   # Psych
 Stable.
   - Continue citalopram
   .
   # Chronic Pain
 Controlled.
   - Continue gabapentin
   .
   # FEN:  Renal diet
   .
   # Access: HD catheter, PD tubing, and 2 peripheral  IV
   .
   # PPx:  Came in on Warfarin. Heparing gtt started today to prevent
   further IJ thromboses, given extensive hx of similar clots.
   .
   # Code:  Full code
   .
   # Dispo:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-6-22**] 04:55 PM
   18 Gauge - [**2128-6-22**] 04:56 PM
   Dialysis Catheter - [**2128-6-22**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-06-23 12:12:00 Physician Attending Progress Note
Chief Complaint: Bacteremia, fever, hypertension, chronic renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had episode of nausea and vomiting last night treated with zofran. One
   episode of diarrhea. C Diff negative on first test.
   Had episode of elevated BP with headache. Given Hydralazine X 2 with
   improvement. As nausea waned, captropil administered and BP improved.
   Perintoneal fluid sent for culture and cell count - WBC 31. Blood
   cultures from ED are growing gram negative rods.
   Having problems with drainage of peritoneal dialysate today. Episode of
   substernal chest pain (like someone standing on her chest) this AM.
   Improving with TNG sublingual. ASA given.
   24 Hour Events:
 DIALYSIS CATHETER - START [**2128-6-22**] 07:00 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2128-6-22**] 07:21 PM
   Ciprofloxacin - [**2128-6-22**] 07:54 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2128-6-22**] 10:19 PM
   Other medications:
   Neurontin, epo, celexa, atenolol, captoril, iron, heparin with
   dialysis, hydralazine, benadryl, citalopram
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-6-23**] 12:11 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.7
C (98.1
   HR: 77 (70 - 84) bpm
   BP: 131/75(88) {131/59(80) - 193/115(133)} mmHg
   RR: 19 (15 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
                  Total In:
                                                                    444 mL
                  PO:
                                                                    100 mL
                  TF:
   IVF:
                                                                    344 mL
   Blood products:
   Total out:
                                                                 -2,000 mL
                                                                   -300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,444 mL
                                                                    300 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally (patient on dialysis), No(t) Crackles : ,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   287 K/uL
   102 mg/dL
   9.7 mg/dL
   24 mEq/L
   4.5 mEq/L
   44 mg/dL
   95 mEq/L
   132 mEq/L
   30.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2128-6-23**]  04:56 AM
   WBC
   10.8
   Hct
   30.6
   Plt
   287
   Cr
   9.7
   Glucose
   102
   Other labs: PT / PTT / INR:19.4/37.4/1.8, ALT / AST:[**5-11**], Alk Phos / T
   Bili:85/0.4, Albumin:3.9 g/dL, LDH:268 IU/L, Ca++:8.5 mg/dL, Mg++:1.9
   mg/dL, PO4:4.5 mg/dL
   Imaging: CXR: cardiomegaly. No infiltrates or effusions.
   ECG: NSR. No acute ischemic changes this AM during episode of chest
   pain.
   Assessment and Plan
   1) Hypertension
   2) Fever
   3) Bacteremia
   4) Chronic renal failure
   5) Chest pain
   6) Anemia
   7)  Hx of vascular thrombosis
   With multiple postive blood cultures, major concern for a vascular
   source of infection, presumably the dialysis catheter. Relatively low
   WBC in the peritoneal fluid arguing against the peritoneum as a souce
   of infection. Continue present antibiotics. Consider replacement of
   dialysis catheter.
   BP improved since reinstatement of her home meds and addition of
   captopril.
   Chest pain this AM worrisome for ischemia, although ECG not changed.
   Will check enzymes. ASA given. Continue close monitoring of BP.
   Undergoing dialysis now. Electrolytes acceptable.
   Patient off coumadin. Heparin to be started.
   Hct stable. No need for transfusion now.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2128-6-22**] 04:55 PM
   18 Gauge - [**2128-6-22**] 04:56 PM
   Dialysis Catheter - [**2128-6-22**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2128-06-24 07:40:00 Physician Resident Progress Note
Chief Complaint: Fatigue
   24 Hour Events:
   Over night, pt complained of [**6-3**] right shoulder pain (hx rotator cuff
   tear.) Resolved after Oxycodone 5mg x 2.
   Also c/o same chest pain from yesterday, substernal pressure, but also
   described as feeling like "heartburn" or gas. Increases with
   inspiration, and reproducible with palpation. Given Maalox, with
   improvement of symptoms. EKG obtained interpreted as no change from
   yesterday. CE's over yesterday negative x 2 so far.
   This a.m., pt c/o of left shoulder pain similar in nature to right.
   Also continues to same chest pain as described above. Requesting
   Maalox.
   Pt reports right hand edema and pain on dorsum, over site of IV. Also
   reports feeling tubing of PD line on inside of abdomen. Otherwise, no
   new fevers or chills. Tolerating PO intake.
   BP stable overnight in 140s. Pt received extra day of HD yesterday,
   holding off on additional PD until line cleared with TPA by renal.
 EKG - At [**2128-6-23**] 11:00 AM
   - Pt c/o chest pain (see yesterday's note)
 BLOOD CULTURED - At [**2128-6-23**] 11:30 AM
   - Routine monitoring
 BLOOD CULTURED - At [**2128-6-23**] 02:58 PM
   - during HD, pt c/o chills, resolved after Bair hugger
 EKG - At [**2128-6-24**] 04:40 AM
   - Repeated for similar pain, no change from previous
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2128-6-22**] 07:21 PM
   Ciprofloxacin - [**2128-6-23**] 08:07 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-6-24**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.5
   HR: 67 (64 - 88) bpm
   BP: 144/109(113) {117/71(82) - 173/114(119)} mmHg
   RR: 20 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    309 mL
                                                                    110 mL
   PO:
             TF:
   IVF:
                                                                    309 mL
                                                                    110 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,891 mL
                                                                    110 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98% on 2L
   ABG: ///24/
   Physical Examination
   Gen: awake, NAD, sleeping in bed but easily rousable
   HEENT: mmm, no LAD, PERRL, EOMI grossly
   CV: RRR, no m/r/g; HD cath site in right upper chest, NTTP, no
   erythema/drainage
   LUNGS: CTAB, no w/r/r
   ABD: soft, NTND, bs+, PD cath site covered with gauze, no visible
   drainage, no erythema/TTP
   EXT: no c/c/e LE, pneumoboots in place, pedal pulses 2+/4; right hand
   edema, with TTP of dorsum (peripheral line insertion site), no erythema
   Labs / Radiology
   287 K/uL
   10.0 g/dL
   83 mg/dL
   7.0 mg/dL
   24 mEq/L
   4.7 mEq/L
   28 mg/dL
   99 mEq/L
   136 mEq/L
   30.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2128-6-23**]  04:56 AM
                             [**2128-6-23**]  11:19 AM
                             [**2128-6-23**]  10:04 PM
                             [**2128-6-24**]  04:09 AM
   WBC
   10.8
   9.2
   Hct
   30.6
   30.7
   Plt
   287
   287
   Cr
   9.7
   7.0
   TropT
   0.08
   0.07
   0.07
   Glucose
   102
   83
   Other labs: PT / PTT / INR:17.4/78.2/1.6, CK / CKMB /
   Troponin-T:127/4/0.07, ALT / AST:[**4-8**], Alk Phos / T Bili:80/0.4,
   Albumin:3.9 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   [**6-23**] Blood cx: pending
   [**6-23**] Dialysate fluid cx: pending
   [**6-23**] CXR: RLL opacity, slightly worse, could be asymmetric pulmonary
   edema vs. focal developing infection
   Assessment and Plan
   55 year-old female with a history of ESRD on HD and PD, hypertension
   who presents with uncontrolled hypertension and gram negative
   bacteremia.
   .
   # Gram negative bacteremia - Possible sources include dialysis
   catheter, peritoneal cathetheter, or other intra-abdominal source.
   Peritoneal fluid negative for infection. Breast tenderness is chronic
   and likely related to venous clots.  No evidence of abscess on
   ultrasound, so unlikely to be source of infection given chronicity. No
   signs of pulmonary infection clinically.
   - Gentamicin 60mg IV x 1 given ([**6-22**]), double coverage with
   ciprofloxacin 400 q24 ([**6-22**]) until gram negatives speciated. One set of
   cultures show pansensitive.
   - F/u on repeat blood cultures from today
   - CIS
   - Gent level after HD was 2.4. If as >1.3, will hold off on re-dosing
   Gent 60mg IV.
   - Will have HD catheter replaced over wire tomorrow by IR
    .
   #Breast pain: Breast tenderness is chronic and likely related to venous
   clots.  No evidence of abscess on ultrasound, so unlikely to be source
   of infection given chronicity. Pt had recent breast u/s which showed
   only breast edema. Pt would prefer not to have mammogram, due to pain
   of test.
   - Pending breast surgery consult
   - Continue to monitor
   .
   #Chest pain: episode of chest pain [**6-23**], substernal pressure, but no
   signs MI on EKG. Pain improved mildly with NG. Also increases with
   inspiration, which is more consistent with a pleuritic etiology. Chest
   pain continued overnight to today, described now more like heartburn.
   Improves after Maalox Repeat EKG this a.m. showed no change.  [**Month (only) 60**] be GI
   related.
   - Will repeat EKG as necessary
   - Follow-up on final set of CE
s this a.m.
   - Follow up on CXR this a.m.
   - Will start PPI daily (hx of PPI use, but d/c
ed in distant for
   unclear reasons)
   - Maalox also for PRN heartburn
   .
   # Hypertension
 Per pt, baseline at home is 120/80.  However, only
   missed 4 days of low-dose atenolol, and BP early in stay  elevated in
   170s, and episode of BP in 200s in p.m. [**6-22**]. BP improved after HD and
   regular dosing of BP meds.
   - Continue home Atenolol 12.5 daily and Captopril 6.25 tid, titrate up
   as necessary.
   .
   # ESRD
 Pt on HD Mon/Fri and  regular PD.  Received HD 7/30 per renal
   as pt unable to do regular PD while line clotted.
   - Continue lanthanum, sevelamer, Iron, vitamin D, cinacalcet
   - 2-3kg to removed via HD yesterday, as PD has been ineffective
   - Renal to stop by today with TPA for PD tubing to remove any potential
   clots
   .
   # Psych
 Stable.
   - Continue citalopram
   .
   # Chronic Pain
 Controlled.
   - Continue gabapentin
   .
   # FEN:  Renal diet
   .
   # Access: HD catheter, PD tubing, and 2 peripheral  IV
s (right hand
   PIV removed, new PIV placed in left hand)
   .
   # PPx:  Came in on Warfarin.
   - Heparin gtt started [**6-23**] to prevent further IJ thromboses, given
   extensive hx of similar clots. Will adjust as necessary to maintain
   therapeutic levels. Transition to Warfarin if no HD catheter removal
   anticipated prior to discharge.
   - PPI daily.
   - Pneumoboots
   .
   # Code:  Full code
   .
   # Dispo:  will likely call out to floor today, as symptoms much
   improved and pt hemodynamically stable on current antibiotic regimen.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-6-22**] 04:55 PM
   Dialysis Catheter - [**2128-6-22**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-06-24 10:04:00 Physician Attending Progress Note
Chief Complaint: bacteremia, hypertension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55F with htn, esrd, on hd through tunneled catheter, present with gnr
   bacteremia:
   24 Hour Events:
 EKG - At [**2128-6-23**] 11:00 AM
 BLOOD CULTURED - At [**2128-6-23**] 11:30 AM
 BLOOD CULTURED - At [**2128-6-23**] 02:58 PM
 EKG - At [**2128-6-24**] 04:40 AM
   restarted on heparin gtt for known clots.
   recurrent chest pain overnight, relieved with maalox.
   bp better control; no more fevers
   pd catheter was not draining well yesterday
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2128-6-22**] 07:21 PM
   Ciprofloxacin - [**2128-6-23**] 08:07 PM
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Neurologic: No(t) Numbness / tingling
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2128-6-24**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 66 (64 - 88) bpm
   BP: 143/87(101) {117/70(82) - 173/114(119)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
             Total In:
                                                                    318 mL
                                                                    152 mL
   PO:
             TF:
   IVF:
                                                                    318 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,882 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic), [**11-30**] lusb
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, pd catheter in place
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   287 K/uL
   83 mg/dL
   7.0 mg/dL
   24 mEq/L
   4.7 mEq/L
   28 mg/dL
   99 mEq/L
   136 mEq/L
   30.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2128-6-23**]  04:56 AM
                             [**2128-6-23**]  11:19 AM
                             [**2128-6-23**]  10:04 PM
                             [**2128-6-24**]  04:09 AM
   WBC
   10.8
   9.2
   Hct
   30.6
   30.7
   Plt
   287
   287
   Cr
   9.7
   7.0
   TropT
   0.08
   0.07
   0.07
   Glucose
   102
   83
   Other labs: PT / PTT / INR:17.4/78.2/1.6, CK / CKMB /
   Troponin-T:127/4/0.07, ALT / AST:[**4-8**], Alk Phos / T Bili:80/0.4,
   Albumin:3.9 g/dL, LDH:268 IU/L, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.1
   mg/dL
   Imaging: cxr: lungs clear (?r base streaks, likely atelectasis >
   infiltrate)
   Microbiology: [**6-22**]: pansensitive gnr
   [**6-23**] (after abx)
   ECG: no change from prior
   Assessment and Plan
   1. gnr bacteremia
   2. esrd
   3. htn
   4. chest pain
   55F with esrd from hd, with tunnelled hd catheter for access, presents
   with GNR bacteremia likely line infection that is responding to
   antibiotics, and htn in the setting of not taking antihypertensives at
   home, not with better bp control and doing well. recurrent chest pain
   not cardiac, responding to maalox.
   -continue gentamicin for presumed line infection; stop cirpo (will
   speak with ID/Renal whether there is any benefit to double-cover)
   -defer to renal whether line needs to be changed; may need to speak
   with ED
   -continue atenolol and caproptil for bp control
   -pd catheter needs to be declotted by tpa
   -continue heparin gtt for clots
   -restart ppi for presumed gerd, to be further evaluate as outpt; maaloz
   prn
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Dialysis Catheter - [**2128-6-22**] 07:00 PM
   22 Gauge - [**2128-6-24**] 09:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: plan discussed with patient
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes